US07262196B2
(E)-2-(6-Aminopyridin-3-yl)-N-(5-chlorothiazol-2-yl)-3-cyclopentylacrylamide
A stirred solution of (E)-tert-butyl {5-[1-(5-chlorothiazol-2-ylcarbamoyl)-2-cyclopentylvinyl]pyridin-2-yl}carbamate (Preparation 18, 212 mg, 473 μmol) in CH2Cl2 (5 mL) was treated with TFA (5 mL, 65.1 mmol). After 2 h, the mixture was evaporated to dryness, then EtOAc (60 mL) was added. The EtOAc solution was washed with H2O-saturated aqueous NaHCO3 (1:1, 20 mL) and brine (20 mL), before being dried (MgSO4). Filtration and solvent evaporation gave a residue that was dissolved in a minimal amount of Et2O. IH was added to the Et2O solution to precipitate a solid, which was collected and dried to furnish the title compound: RTA=3.07 min; m/z (ES+)=349.2 [M+H]+.

reactant | (E)-tert-butyl {5-[1-(5-chlorothiazol-2-ylcarbamoyl)-2-cyclopentylvinyl]pyridin-2-yl}carbamate | 473 μmol, 212 mg | ClC1=CN=C(S1)NC(=O)\C(=C\C1CCCC1)\C=1C=CC(=NC1)NC(OC(C)(C)C)=O | C21H25ClN4O3S
reactant | TFA | 65.1 mmol, 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | (E)-2-(6-Aminopyridin-3-yl)-N-(5-chlorothiazol-2-yl)-3-cyclopentylacrylamide | NC1=CC=C(C=N1)/C(/C(=O)NC=1SC(=CN1)Cl)=C\C1CCCC1 | C16H17ClN4OS
